US04414390
To a solution of 6-(3-methylimidazo[1,2-a]-pyridine-2-yl)-3,4-dihydrocarbostyril (3 g) in dimethylformamide (50 ml) was added 50% oily sodium hydride (590 mg) and the mixture was reacted for 2 hours at room temperature. Then, after adding methyl iodide (1.85 g), the mixture was further reacted for 3 hours at room temperature. After completion of reaction, dimethylformamide was evaporated. Chloroform and 0.5 N sodium hydroxide were added to the residue for extraction. The chloroform layer was washed with water thoroughly and dried followed by evaporation of chloroform. The residue was purified using silica gel column chromatography and the oily product thus obtained was dissolved in acetone. The solution was adjusted to pH of about 1 by the addition of 48% hydrobromic acid and crystals which formed were collected by filtration. The crude crystals thus obtained were recrystallized from water to give 2.9 g of 6-(3-methylimidazo[1,2-a]pyridine-2-yl)-1-methyl-3,4-dihydrocarbostyril monohydrobromide.

reactant | 6-(3-methylimidazo[1,2-a]-pyridine-2-yl)-3,4-dihydrocarbostyril | 3 g | CC1=C(N=C2N1C=CC=C2)C=2C=C1CCC(NC1=CC2)=O | C17H15N3O
reactant | sodium hydride | 590 mg | [H-].[Na+]
reactant | methyl iodide | 1.85 g | CI | CH3I
reactant | hydrobromic acid | Br | BrH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | acetone | CC(=O)C | C3H6O
product | 6-(3-methylimidazo[1,2-a]pyridine-2-yl)-1-methyl-3,4-dihydrocarbostyril monohydrobromide | 2.9 g | Br.CC1=C(N=C2N1C=CC=C2)C=2C=C1CCC(N(C1=CC2)C)=O | InChI=1S/C18H17N3O.BrH/c1-12-18(19-16-5-3-4-10-21(12)16)14-6-8-15-13(11-14)7-9-17(22)20(15)2;/h3-6,8,10-11H,7,9H2,1-2H3;1H
